datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C:11](C)=[CH2:10].CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C+:11](C)[CH2:10][CH:20](C1=CC=C(N(C)C)C=C1)[C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43] 10,11=10,20;20,21=21"
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.C[Si](C)(C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]1>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([CH2:10][C+:11]([Si](C)(C)C)[C:62]2=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[N:12]1[CH:11]=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][C:64]([B-:82](F)(F)F)=[CH:63]2>>CN(C)C1=CC=C([CH:20]([CH:10]2[CH:11]=[N+:12](C)[C:61]3=[C:62]2[CH:63]=[C:64]([B-:82](F)(F)F)[CH:65]=[CH:66]3)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].CC[O:62]/[C:11](=[CH:10]/[S:71](C1=CC=CC=C1)=[O:72])[O-:12]>>CC[O:62][C:11]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[S:71](C1=CC=CC=C1)=[O:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:82][C:71]([C-:10]1CCCCC[C:62]1=[O:61])=[O:72]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1([C:71](=[O:72])[O:82]CC)CCCCC[C:62]1=[O:61])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC[Si:11](C)(CC)[H:10].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[Si+:11](C)CC.C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54>>C[C+:11]([CH2:10][CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62].C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F>>CC[O:72][C:61]([C:10]([S:20]C(F)(F)F)([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62].C[N-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[N:12]1[CH:11]=[CH:10][C:61]2=[C:62]1[CH:63]=[CH:64][CH:73]=[CH:72]2.N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C[N+:12]1=[CH:11][CH:10]([CH:20]([CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)[C:61]2=[C:62]1[CH:63]=[CH:64][CH:73]=[CH:72]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)[O-:12].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CC[O:72][C:11]([CH:10]([CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1)[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"C[N:16](C)[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[N+:16](C)=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.N#C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][C:11](C)=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[C:11](C)[CH:10]2[CH:20]2CCCC[C:22]([O-:23])=[CH:21]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:14]1[C:13]2=[C:12]([CH:11]([H:10])[C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2.F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[N+:14]1=[C:13]2[C:12](=[CH:11][C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2.F[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14=13,14"
